US07732448B2
Into 3 ml of acetonitrile were added 0.20 g of 4-(2-butynyloxy)-6-chloro-5-fluoropyrimidine, 0.41 g of potassium carbonate and 0.20 g of 3,4-dimethylpyrrolidine hydrochloride (cis and trans diastereomer mixture), and the mixture was stirred for 7 hours at 80° C. The reaction mixture was cooled to near room temperature, a saturated ammonium chloride aqueous solution was added therein, and the mixture was extracted with tert-butyl methyl ether three times. The organic layers were washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to obtain 0.20 g of 4-(2-butynyloxy)-6-(3,4-dimethylpyrrolidin-1-yl)-5-fluoropyrimidine (hereinafter, referred to as Compound (36)).

reactant | 4-(2-butynyloxy)-6-chloro-5-fluoropyrimidine | 0.20 g | C(C#CC)OC1=NC=NC(=C1F)Cl | C8H6ClFN2O
reactant | potassium carbonate | 0.41 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4-dimethylpyrrolidine hydrochloride | 0.20 g | Cl.CC1CNCC1C
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 4-(2-butynyloxy)-6-(3,4-dimethylpyrrolidin-1-yl)-5-fluoropyrimidine | 0.20 g | C(C#CC)OC1=NC=NC(=C1F)N1CC(C(C1)C)C | C14H18FN3O
